US08293768B2
Synthesis of 1-(5-bromo-4-methylthiazol-2-yl)-3-(4-(trifluoromethyl)-benzyl)imidazolidin-2-one
To a solution of 1-(4-methylthiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)-imidazolidin-2-one (1.40 g, 4.10 mmol) in acetonitrile (40 mL) was added N-bromosuccinimide (0.73 g, 4.10 mmol). The reaction mixture was stirred at 0° C. for 1 h, quenched with 10% sodium thiosulfate solution (10 mL), diluted with ethyl acetate (200 mL), washed with water and brine. The organic solution was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography to afford the title compound as a colorless solid in 69% yield (1.20 g): mp 107-108° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 7.59 (d, J=7.8 Hz, 2H), 7.39 (d, J=7.8 Hz, 2H), 4.51 (s, 2H), 4.08-3.99 (m, 2H), 3.47-3.41 (m, 2H), 2.25 (s, 3H); MS (ES+) m/z 420.1 (M+1), 422.1 (M+1).

reactant | 1-(4-methylthiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)-imidazolidin-2-one | 4.10 mmol, 1.40 g | CC=1N=C(SC1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O | C15H14F3N3OS
reactant | N-bromosuccinimide | 4.10 mmol, 0.73 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 1-(5-bromo-4-methylthiazol-2-yl)-3-(4-(trifluoromethyl)-benzyl)imidazolidin-2-one | 69% yield | BrC1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C | C15H13BrF3N3OS
